US06531477B1
Fifty mg (0.076 mmol) of (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(N-t-butoxycarbonylprolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one was dissolved in 2 mL of 4 M HCl, and the solution was stirred 1 h at RT. The solution was concentrated under reduced pressure to afford 45 mg (100%) of (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(prolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a white, amorphous solid. 1H NMR (300 MHz, DMSO) δ 12.42(s, 1H); 10.67(s, 1H); 7.97(s, 2H); 7.49(d, 2H, J=8.5 Hz); 7.23(d, 2H, J=8.4 Hz); 4.27-4.31(m, 1H); 3.82(s, 2H); 3.18-3.34(m, 5H); 2.28-2.40(m, 1H); 1.84-1.95(m, 3H); 1.28(d, 6H, J=6.9 Hz).

reactant | (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(N-t-butoxycarbonylprolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.076 mmol, Fifty mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N(C([C@H]2NCCC2)=O)C(=O)OC(C)(C)C)C(C)C | C31H33Cl3N6O4
solvent | HCl | 4 M, 2 mL | Cl | ClH
product | (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(prolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 45 mg, 100% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NC([C@H]2NCCC2)=O)C(C)C | C26H25Cl3N6O2
